US07186742B2
2-Chloro-5-(2-methyl-thiazol-4-yl)-benzoic acid
A mixture of 2-chloro-5-(2-methyl-thiazol-4-yl)-benzoic acid methyl ester (10 mg, 0.04 mmol) and sodium hydroxide (80 μL, 1M aqueous, 0.08 mmol) in tert-butanol (1 mL) was stirred at room temperature for 3 d. The mixture was concentrated to dryness in vacuo, dissolved in water (5 mL), acidified to pH6 (1M HCl) and extracted with ethyl acetate. The combined organic layers were washed with water, and brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound (7 mg).

reactant | 2-chloro-5-(2-methyl-thiazol-4-yl)-benzoic acid methyl ester | 0.04 mmol, 10 mg | COC(C1=C(C=CC(=C1)C=1N=C(SC1)C)Cl)=O | C12H10ClNO2S
reactant | sodium hydroxide | 0.08 mmol, 1M, 80 μL | [OH-].[Na+]
solvent | tert-butanol | 1 mL | C(C)(C)(C)O | C4H10O
product | 2-Chloro-5-(2-methyl-thiazol-4-yl)-benzoic acid | 7 mg | ClC1=C(C(=O)O)C=C(C=C1)C=1N=C(SC1)C | C11H8ClNO2S
